US06083908
To a solution of N-methylhydrazinecarboxylic acid tert-butyl ester (0.62 g, 4.20 mmol) in methylene chloride (10 ml) was added acetic acid anhydride (0.79 ml, 8.40) and pyridine (1.36 ml, 16.80 mmol) and the mixture was stirred overnight. Then methylene chloride (50 ml) was added and the mixture was washed with water (3×10 ml), dried (MgSO4), filtered and concentrated in vacuo to give 0.32 g (41%) of N'-acetyl-N-methylhydrazinecarboxylic acid tert-butyl ester as an oil.

reactant | N-methylhydrazinecarboxylic acid tert-butyl ester | 4.20 mmol, 0.62 g | C(C)(C)(C)OC(=O)N(N)C | C6H14N2O2
reactant | acetic acid anhydride | 0.79 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 16.80 mmol, 1.36 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N'-acetyl-N-methylhydrazinecarboxylic acid tert-butyl ester | 0.32 g, 41% | C(C)(C)(C)OC(=O)N(NC(C)=O)C | C8H16N2O3
